US06821967B2
9-{4-[4-(5-chloro-quinolin-2-yl)-cis-2,6-dimethyl-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 1 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 5-chloro-2-(cis-3,5-dimethyl-piperazin-1-yl)-quinoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
reactant | 5-chloro-2-(cis-3,5-dimethyl-piperazin-1-yl)-quinoline | ClC1=C2C=CC(=NC2=CC=C1)N1C[C@H](N[C@H](C1)C)C | C15H18ClN3
product | 9-{4-[4-(5-chloro-quinolin-2-yl)-cis-2,6-dimethyl-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1[C@H](CN(C[C@H]1C)C1=NC2=CC=CC(=C2C=C1)Cl)C)(F)F | C35H36ClF3N4O
